US07829206B2
Into 300 ml of DMF, N,N-dimethylformamide, 40 g of commercial benzanthracene was dispersed, and 35.6 g of NBS, bromosuccinimide, was added to the resultant suspension at the room temperature. After the resultant mixture was stirred for 3.5 hours, 600 ml of water was added, and the formed crystals were separated by filtration and washed with methanol. The obtained crude crystals were purified using a silica gel column with toluene and filtered with hexane, and 49.3 g of 7-bromobenzanthracene was obtained as cream crystals (the yield: 91%).

reactant | DMF | 300 ml | CN(C)C=O | C3H7NO
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | benzanthracene | 40 g | C1=CC=CC=2C=CC=3C=C4C=CC=CC4=CC3C21 | C18H12
reactant | NBS | 35.6 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | bromosuccinimide | BrC1C(=O)NC(C1)=O | C4H4BrNO2
solvent | water | 600 ml | O | H2O
product | 7-bromobenzanthracene | 49.3 g, yield: 91% | BrC1=C2C=CC=CC2=CC=2C3=C(C=CC12)C=CC=C3 | C18H11Br
